US06340759B1
Synthesis of 1-(4-ethylpiperazin-1-yl)-3-[4-(3-hydroxy-2-methylpropyl)phenyl]isoquinoline oxalate
Subsequently, the resulting 1-(4-ethylpiperazin-1-yl)-3-[4-(2-methoxycarbonylpropyl)phenyl)isoquinoline (1.34 g) was dissolved in tetrahydrofuran (10 ml). The solution was added to a suspension of lithium aluminum hydride (0.13 g) in tetrahydrofuran (20 ml) under cooling with a cooler of sodium chloride and ice, and the mixture was further stirred for 30 min. Water (130 ml), a 5N aqueous solution of sodium hydroxide (130 ml) and water (390 ml) were added to the reaction solution in this order, and the resulting precipitates were filtered off. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (toluene/acetone system), to give 0.62 g of the free compound of the title compound as a pale brown viscous oil.

reactant | 1-(4-ethylpiperazin-1-yl)-3-[4-(2-methoxycarbonylpropyl)phenyl)isoquinoline | 1.34 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)CC(C)C(=O)OC | C26H31N3O2
reactant | lithium aluminum hydride | 0.13 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium chloride | [Cl-].[Na+]
reactant | sodium hydroxide | 130 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 390 ml | O | H2O
solvent | Water | 130 ml | O | H2O
product | 1-(4-ethylpiperazin-1-yl)-3-[4-(3-hydroxy-2-methylpropyl)phenyl]isoquinoline oxalate | 0.62 g | C(C(=O)O)(=O)O.C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)CC(CO)C | InChI=1S/C25H31N3O.C2H2O4/c1-3-27-12-14-28(15-13-27)25-23-7-5-4-6-22(23)17-24(26-25)21-10-8-20(9-11-21)16-19(2)18-29;3-1(4)2(5)6/h4-11,17,19,29H,3,12-16,18H2,1-2H3;(H,3,4)(H,5,6)
